US08202858B2
4-((E)-2-Methoxycarbonyl-vinyl)-benzoic Acid
Sodium hydride (60% dispersion in oil, 1.46 g, 36.6 mmol) was added to a solution of 4-formylbenzoic acid (5.0 g, 33.3 mmol) in toluene (200 ml) and the mixture was stirred for 2 h at room temperature. Methyl (triphenyl-phosphoranylidene)acetate (11.69 g, 35.0 mmol) was added and the mixture was heated at reflux for 20 h. Solvents were removed in vacuo and the residue was redissolved in dichloromethane and 1M NaHCO3. The layers were partitioned and the aqueous layer was acidified with 1M HCl solution then extracted with chloroform. The organic layer was dried and concentrated in vacuo to yield the title compound (3.65 g, 53%).

reactant | Sodium hydride | 36.6 mmol, 1.46 g | [H-].[Na+]
reactant | 4-formylbenzoic acid | 33.3 mmol, 5.0 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | Methyl (triphenyl-phosphoranylidene)acetate | 35.0 mmol, 11.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-((E)-2-Methoxycarbonyl-vinyl)-benzoic Acid | 3.65 g, 53% | COC(=O)/C=C/C1=CC=C(C(=O)O)C=C1 | C11H10O4
